US05102877
To a solution of 1-t-butyloxycarbonyl-3-(1-hydroxyethyl)-2-oxopyrrolidine (15 g) in dichlormethane (200 ml) were added 3,4-dihydro-2H-pyran (11.9 ml) and p-toluenesulfonic acid (1.2 g) at 0° C. After stirring for 1 hour at the same temperature, the solution was washed in turn with saturated aqueous bicarbonate and brine. The dried solution was evaporated, and the obtained residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1-3:1, V/V) to give 1-t-butyloxycarbonyl-3-{1-(tetrahydropyran-2-yloxy)ethyl}-2-oxopyrrolidine (18.4 g).

reactant | 1-t-butyloxycarbonyl-3-(1-hydroxyethyl)-2-oxopyrrolidine | 15 g | C(C)(C)(C)OC(=O)N1C(C(CC1)C(C)O)=O | C11H19NO4
reactant | 3,4-dihydro-2H-pyran | 11.9 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichlormethane | 200 ml | ClCCl | CH2Cl2
product | 1-t-butyloxycarbonyl-3-{1-(tetrahydropyran-2-yloxy)ethyl}-2-oxopyrrolidine | 18.4 g | C(C)(C)(C)OC(=O)N1C(C(CC1)C(C)OC1OCCCC1)=O | C16H27NO5
